US07250442B2
1-Benzyl-3-(3,5-dimethyl-phenyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one
Dissolve 1-benzyl-3-(3,5-dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one (68 mg, 0.2 mmol) and 2,6-dimethylphenol (122 mg, 1.0 mmol) in trifluoroacetic acid (1 mL) and stir at room temperature for 30 min. Pour the reaction over ice water and extract with ethyl acetate (2×). Wash combined organic portions with brine and then dry (Na2SO4), filter and concentrate in vacuo to give an oily residue. Purify with radial chromatography (gradient of 1 EtOAc/9 hexanes and then 1 EtOAc/5 hexanes) to give 55 mg (62%) of the title compound as a white solid. MS (ES): m/z=448 (M+1), 446 (M−1); 1H NMR(DMSO-d6): δ8.29 (s, 1H), 7.38-7.22 (m, 7H), 7.07 (m, 2H), 6.90 (s, 1H), 6.75 (s, 2H), 6.71 (s, 2H), 4.99 (s, 2H), 2.19 (s, 6H), 2.08 (s, 6H).

reactant | 1-benzyl-3-(3,5-dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one | 0.2 mmol, 68 mg | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(O)C1=CC(=CC(=C1)C)C)=O | C23H21NO2
reactant | 2,6-dimethylphenol | 1.0 mmol, 122 mg | CC1=C(C(=CC=C1)C)O | C8H10O
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Benzyl-3-(3,5-dimethyl-phenyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 55 mg, 62% | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=CC(=C1)C)C)=O | C31H29NO2
